US08802728B2
Stir a mixture of spiro[2.5]octan-6-one (252 mg, 2.03 mmol), (HCHO)n (61 mg, 2.03 mmol), dimethylamine hydrochloride (166 mg, 2.03 mmol) and 0.3 mL of conc. HCl in MeCN (30 mL) at 60° C. for 6 hours. Quench the reaction with saturated aqueous NH4Cl solution (15 mL). Basify the aqueous solution with K2CO3 to pH=9. Extract the aqueous mixture with EtOAc (30 mL×2). The combined organic layers are washed with brine (15 mL), dried over Na2SO4, filtered, and concentrated under vacuum. Purify the residue by silica gel chromatography (CH2Cl2:MeOH=30:1) to afford 5-Dimethylaminomethyl-spiro[2.5]octan-6-one as brown oil (142 mg, yield: 38.4%). MS (m/z): 182 (M+1).

reactant | spiro[2.5]octan-6-one | 2.03 mmol, 252 mg | C1CC12CCC(CC2)=O | C8H12O
reactant | dimethylamine hydrochloride | 2.03 mmol, 166 mg | Cl.CNC
reactant | HCl | 0.3 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 5-Dimethylaminomethyl-spiro[2.5]octan-6-one | 142 mg, yield: 38.4% | CN(C)CC1CC2(CC2)CCC1=O | C11H19NO
